US07858640B2
[3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [4,8-dichloro-3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.13 g), palladium (5 wt. % on activated carbon, 0.010 g), ethanol (5.0 mL) and 1.0 M aqueous hydrochloric acid (1.0 mL) was stirred at room temperature for 17 hours under an atmosphere of hydrogen. The mixture was filtered through hyflo, washing with ethanol and water and the solvent removed under reduced pressure to afford title compound, 0.11 g.

reactant | [4,8-dichloro-3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.13 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)Cl)=O | C20H16Cl3NO3
reactant | hydrochloric acid | 1.0 M, 1.0 mL | Cl | ClH
catalyst | palladium | 0.010 g | [Pd] | Pd
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | [3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C=C(C(=NC2=CC=C1)C)CC1=CC=C(C=C1)Cl)=O | C20H18ClNO3
